US04097472
To a solution of 4.0 g of NG -nitro-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester hydrochloride in 50 ml of ethanol was added 0.5 g of palladium-black and then the mixture was shaken in a hydrogen atmosphere for 150 hours at room temperature. At the end of this period, the ethanol solution was filtered to remove the catalyst and evaporated to give an oily product. Reprecipitation with ethanol-ethyl ether gave 3.0 g (81%) of L-arginyl-N-(2-methoxyethyl)glycine ethyl ester hydrochloride in the form of a powder.

reactant | nitro-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester hydrochloride | Cl.C(C)OC(CN(CCOC)C([C@@H](N[N+](=O)[O-])CCCNC(N)=N)=O)=O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-black | 0.5 g | [Pd] | Pd
product | L-arginyl-N-(2-methoxyethyl)glycine ethyl ester hydrochloride | 3.0 g, 81% | Cl.C(C)OC(CN(CCOC)C([C@@H](N)CCCNC(N)=N)=O)=O | InChI=1S/C13H27N5O4.ClH/c1-3-22-11(19)9-18(7-8-21-2)12(20)10(14)5-4-6-17-13(15)16;/h10H,3-9,14H2,1-2H3,(H4,15,16,17);1H/t10-;/m0./s1
